US05047543
A solution of 9.07 g (0.06 mole) of m-nitrobenzaldehyde, 15.0 g (0.06 mole) of 2-nicotinoylaminoethyl acetoacetate and 1.74 g (0.012 mole) of piperidinium acetate in 100 ml of benzene was heated at reflux under azeotropic dehydration conditions for 2 hours. After the reaction, the mixture was extracted with benzene, and the extract was washed with water and dried over anhydrous sodium sulfate. Evaporation of the solvent under reduced pressure gave 19.82 g of 2-nicotinoylaminoethyl 3-nitrobenzilideneacetoacetate as white crystals.

reactant | m-nitrobenzaldehyde | 0.06 mole, 9.07 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | 2-nicotinoylaminoethyl acetoacetate | 0.06 mole, 15.0 g | C(CC(=O)C)(=O)OCCNC(C1=CN=CC=C1)=O | C12H14N2O4
reactant | piperidinium acetate | 0.012 mole, 1.74 g | C(C)(=O)[O-].[NH2+]1CCCCC1
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 2-nicotinoylaminoethyl 3-nitrobenzilideneacetoacetate | 19.82 g | [N+](=O)([O-])C=1C=C(C=CC(CC(=O)OCCNC(C2=CN=CC=C2)=O)=O)C=CC1 | C19H17N3O6
